US09085576B2
Step 4: N-(3-((1R,5S,6R)-3-amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluorophenyl)-5-chloropyridine-2-sulfonamide
To a solution of tert-butyl((1R,5S,6R)-5-(5-(5-chloropyridine-2-sulfonamido)-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)carbamate (0.061 g, 0.11 mmol) in DCM (2 mL) at room temperature was added trifluoroacetic acid (2.0 mL). The reaction mixture was stirred at room temperature for 30 min and concentrated under reduced pressure. The residue was partitioned between saturated NaHCO3 and EtOAc. The aqueous phase was extracted with EtOAc (2×). The combined organic extracts were washed with brine and dried over MgSO4. The filtrate was concentrated under reduced pressure and the residue was purified by flash column chromatography on silica gel (30% to 70% EtOAc in heptane) to give the title compound (0.045 g, 0.10 mmol, 90% yield) as a white solid. MS m/z=446.9 [M+H]+. Calculated for C17H14ClF3N4O3S 446.0. 1H NMR (400 MHz, CDCl3) δ 0.80-0.90 (m, 1H), 1.33 (t, J=6.85 Hz, 1H), 1.69-1.78 (m, 2H), 3.65-3.70 (m, 1H), 5.70 (s br, 2H), 6.06 (t, J=56.10 Hz, 1H), 6.95 (dd, J=6.75, 2.64 Hz, 1H), 7.06 (dd, J=11.44, 8.71 Hz, 1H), 7.45 (ddd, J=8.56, 4.25, 2.84 Hz, 1H), 7.72 (s, 2H), 8.33 (s, 1H).

reactant | tert-butyl((1R,5S,6R)-5-(5-(5-chloropyridine-2-sulfonamido)-2-fluorophenyl)-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-3-yl)carbamate | 0.11 mmol, 0.061 g | C(C)(C)(C)OC(NC=1O[C@@H]2C[C@@H]2[C@@](N1)(C(F)F)C1=C(C=CC(=C1)NS(=O)(=O)C1=NC=C(C=C1)Cl)F)=O | C22H22ClF3N4O5S
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(3-((1R,5S,6R)-3-amino-5-(difluoromethyl)-2-oxa-4-azabicyclo[4.1.0]hept-3-en-5-yl)-4-fluorophenyl)-5-chloropyridine-2-sulfonamide | 0.10 mmol, 0.045 g, 90% yield | NC=1O[C@@H]2C[C@@H]2[C@@](N1)(C(F)F)C=1C=C(C=CC1F)NS(=O)(=O)C1=NC=C(C=C1)Cl | C17H14ClF3N4O3S
